US09278915B2
Intermediate 57: Ethyl (2Z)-3-(4-methoxyphenyl)prop-2-enoate
To a 500 mL RB flask fitted with magnetic stirrer was charged with 160 mL of tetrahydrofuran. To the stirred solvent was added ethyl phosphonoacetate (16.5 g, 73.6 mmol) under argon atmosphere. The reaction mixture was cooled to 0° C. and sodium hydride (2.65 g, 110 mmol) was added portion wise, stirred for 15 minutes at the same temperature. Then 4-methoxybenzaldehyde (5 g, 36.0 mmol) in tetrahydrofuran (30 mL) was added drop wise. The reaction mixture was stirred at 0° C. for 1 h. The reaction mixture was quenched with water at 0° C. by slow addition, stirred for 10 minutes. The layers were separated; ethyl acetate (50 mL) was added to the aqueous layer and extracted the layers. The organic layer was washed with brine solution (50 mL). The organic layer was dried over anhydrous Na2SO4 and the solvent was removed under reduced pressure. The product was obtained as pale yellow semi-solid (7.4 g, yield: 98.76%). 1H NMR (300 MHz, CDCl3): δ 7.54-7.60 (d, 1H), 7.39-7.42 (d, 2H), 6.82-6.85 (d, 2H), 6.21-6.26 (d, 1H), 4.15-4.22 (q, 2H), 3.76 (s, 3H), 1.24-1.28 (t, 3H).

reactant | ethyl phosphonoacetate | 73.6 mmol, 16.5 g | P(=O)(O)(O)CC(=O)OCC | C4H9O5P
reactant | sodium hydride | 110 mmol, 2.65 g | [H-].[Na+]
reactant | 4-methoxybenzaldehyde | 36.0 mmol, 5 g | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
product | Ethyl (2Z)-3-(4-methoxyphenyl)prop-2-enoate | 7.4 g, yield: 98.76% | COC1=CC=C(C=C1)\C=C/C(=O)OCC | C12H14O3
